US08138197B2
Methyl 3-ethoxy-5-(tetrazol-5-yl)benzoate
A mixture of methyl 3-cyano-5-ethoxybenzoate (182 mg, 0.89 mmol), sodium azide (173 mg, 2.66 mmol), triethylamine hydrochloride (366 mg, 2.66 mmol) and DMF (4.4 mL) was stirred in a nitrogen atmosphere at 100° C. for 12 hours. After left cooled, aqueous 5 N sodium hydroxide solution (0.53 mL, 2.66 mmol) was added to the reaction mixture, and washed with chloroform. The aqueous layer was made to have a pH of 2 with 5 N hydrochloric acid, and extracted with chloroform. The organic layer was dried with sodium sulfate, concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to obtain the title compound as a colorless solid.

reactant | methyl 3-cyano-5-ethoxybenzoate | 0.89 mmol, 182 mg | C(#N)C=1C=C(C(=O)OC)C=C(C1)OCC | C11H11NO3
reactant | sodium azide | 2.66 mmol, 173 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 2.66 mmol, 366 mg | Cl.C(C)N(CC)CC
reactant | sodium hydroxide | 2.66 mmol, 5 N, 0.53 mL | [OH-].[Na+]
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
product | Methyl 3-ethoxy-5-(tetrazol-5-yl)benzoate | C(C)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C11H12N4O3
